US07560558B2
3-Tert-butyl-4-methoxyphenol (1.00 g) was dissolved in dichloromethane (10 ml) to prepare a solution. Pyridine (658 mg) and acetyl chloride (599 mg) were added to the solution, and the mixture was stirred at room temperature overnight. The solvent was removed by distillation under the reduced pressure, water was then added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was dried over anhydrous magnesium sulfate, and the solvent was then removed by distillation under the reduced pressure. The residue was dried under the reduced pressure. Scandium trifluoromethane sulfonate (327 mg) was added to the compound thus obtained, the mixture was suspended in toluene (5 ml), and the suspension was heated under reflux overnight. The reaction solution was cooled to room temperature, and the reaction solution was then filtered. The solvent was removed from the filtrate by distillation under the reduced pressure, water was then added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give 1-(4-tert-butyl-2-hydroxy-5-methoxy-phenyl)-ethanone (30 mg, yield 5%).

reactant | 3-Tert-butyl-4-methoxyphenol | 1.00 g | C(C)(C)(C)C=1C=C(C=CC1OC)O | C11H16O2
reactant | Pyridine | 658 mg | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 599 mg | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-tert-butyl-2-hydroxy-5-methoxy-phenyl)-ethanone | 30 mg, yield 5% | C(C)(C)(C)C1=CC(=C(C=C1OC)C(C)=O)O | C13H18O3
